US04544401
N-[(4,6-Dimethoxy-1,3,5-triazin-2-yl)aminothioxomethyl]-3-pyridinesulfonamide
A mixture of 1.58 g of 3-pyridinesulfonamide, 2.04 g of 4,6-dimethoxy-2-isothiocyanato-1,3-5-triazine and 1.5 g of anhydrous potassium carbonate was stirred in 75 ml of acetone for 60 hours at ambient temperature. The reaction mixture was then poured into 500 ml of cold water, acidified with hydrochloric acid and the precipitated product was removed by filtration to yield 2.7 g of the desired compound, m.p. 158°-160°.

reactant | 3-pyridinesulfonamide | 1.58 g | N1=CC(=CC=C1)S(=O)(=O)N | C5H6N2O2S
reactant | 4,6-dimethoxy-2-isothiocyanato-1,3-5-triazine | 2.04 g | COC1=NC(=NC(=N1)OC)N=C=S | C6H6N4O2S
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 75 ml | CC(=O)C | C3H6O
solvent | water | 500 ml | O | H2O
product | N-[(4,6-Dimethoxy-1,3,5-triazin-2-yl)aminothioxomethyl]-3-pyridinesulfonamide | 2.7 g | COC1=NC(=NC(=N1)OC)NC(NS(=O)(=O)C=1C=NC=CC1)=S | C11H12N6O4S2
